US06503907B2
In analogy to example 17.3, Trifluoro-methanesulfonic acid 1-(4-fluoro-phenyl)-1H-indol-5-yl ester and 2-[(1,1-Dimethyl-prop-2-ynyl)-methyl-amino]-ethanol were converted to yield 2-({3-[1-(4-Fluoro-phenyl)-1H-indol-5-yl]-1,1-dimethyl-prop-2-ynyl}-methyl-amino)-ethanol as orange viscous oil, MS: 351 (MH+).

reactant | Trifluoro-methanesulfonic acid 1-(4-fluoro-phenyl)-1H-indol-5-yl ester | FC1=CC=C(C=C1)N1C=CC2=CC(=CC=C12)OS(=O)(=O)C(F)(F)F | C15H9F4NO3S
reactant | 2-[(1,1-Dimethyl-prop-2-ynyl)-methyl-amino]-ethanol | CC(C#C)(C)N(CCO)C | C8H15NO
product | 2-({3-[1-(4-Fluoro-phenyl)-1H-indol-5-yl]-1,1-dimethyl-prop-2-ynyl}-methyl-amino)-ethanol | FC1=CC=C(C=C1)N1C=CC2=CC(=CC=C12)C#CC(C)(C)N(CCO)C | C22H23FN2O
